US05071869
N-{[2-(2,2-Difluorocyclopropyl)acetoxy]acetyl}pyrrolidine
A solution of 2.72 g (0.02 mol) 2,2-difluorocyclopropyl-acetic acid and 3.84 g (0.02 mol) N-(bromoacetyl)-pyrrolidine in 10 ml dimethylformamide was treated, at room temperature, with 0.3 g sodium iodide and 2.8 ml (0.02 ml) triethylamine and the mixture stirred at room temperature for 10 hours. It was then poured into water and extracted three times with ethyl acetate. The combined ethyl acetate phases were washed with first with aqueous 2% sodium hydrogen carbonate and then with water, dried over magnesium sulphate and concentrated. The crude product was purified by silica gel column chromatography using hexane/ethyl acetate (1:1) as eluent. A sample was analysed by thin layer chromatography using hexane/ethyl acetate (1:1) as eluent (Rf :0.18). 3.3 g (66% of theory) of product was obtained.

reactant | 2,2-difluorocyclopropyl-acetic acid | 0.02 mol, 2.72 g | FC1(C(C1)CC(=O)O)F | C5H6F2O2
reactant | N-(bromoacetyl)-pyrrolidine | 0.02 mol, 3.84 g | BrCC(=O)N1CCCC1 | C6H10BrNO
reactant | sodium iodide | 0.3 g | [I-].[Na+]
reactant | triethylamine | 2.8 ml | C(C)N(CC)CC | C6H15N
solvent | dimethylformamide | 10 ml | CN(C=O)C | C3H7NO
solvent | water | O | H2O
product | N-{[2-(2,2-Difluorocyclopropyl)acetoxy]acetyl}pyrrolidine | FC1(C(C1)CC(=O)OCC(=O)N1CCCC1)F | C11H15F2NO3
